US09062028B2
Step A. Methyl 3-(5-bromothiazol-2-yloxy)benzoate
A mixture of 2,5-dibromothiazole (500 mg, 2.06 mmol), methyl 3-hydroxybenzoate (313 mg, 2.06 mmol) and potassium carbonate (341 mg, 2.47 mmol) in DMF (4 mL) was heated at 140° C. in a microwave reactor for 20 min. After cooling to room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous MgSO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (520 mg, 80% yield). LCMS, [M+H]+=315.9.

reactant | 2,5-dibromothiazole | 2.06 mmol, 500 mg | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | methyl 3-hydroxybenzoate | 2.06 mmol, 313 mg | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 2.47 mmol, 341 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Methyl 3-(5-bromothiazol-2-yloxy)benzoate | 520 mg, 80% yield | BrC1=CN=C(S1)OC=1C=C(C(=O)OC)C=CC1 | C11H8BrNO3S
